US04436726
N-(3-hexadecanoyloxyoctadecanoyl)glycine (1.3 g) prepared by the method described in Example 27 and L-tryptophan (1.45 g), N-[N-(3-hexadecanoyloxyoctadecanoyl)glycyl]-L-tryptophan (820 mg) was obtained as powders according to a similar manner to that of Example 29.

reactant | N-(3-hexadecanoyloxyoctadecanoyl)glycine | 1.3 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)NCC(=O)O)CCCCCCCCCCCCCCC | C36H69NO5
reactant | L-tryptophan | 1.45 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
product | N-[N-(3-hexadecanoyloxyoctadecanoyl)glycyl]-L-tryptophan | 820 mg | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)NCC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)CCCCCCCCCCCCCCC | C47H79N3O6
